US09145429B2
To a solution of 3-fluoro-5-methylphenol (19.7 g, 156 mmol) and tert-butyldimethylsilyl chloride (25.9 g, 172 mmol) in dichloromethane (250 mL) was added imidazole (12.7 g, 187 mmol) at 0° C., and the mixture was stirred at room temperature for 2 h. The mixture was washed with water and brine and dried on anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (98:2 hexane/ethyl acetate) to give tert-butyl(3-fluoro-5-methylphenoxy)dimethylsilane (38.6 g, 100%).

reactant | 3-fluoro-5-methylphenol | 156 mmol, 19.7 g | FC=1C=C(C=C(C1)C)O | C7H7FO
reactant | tert-butyldimethylsilyl chloride | 172 mmol, 25.9 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 187 mmol, 12.7 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | tert-butyl(3-fluoro-5-methylphenoxy)dimethylsilane | 38.6 g, 100% | C(C)(C)(C)[Si](C)(C)OC1=CC(=CC(=C1)C)F | C13H21FOSi
